US07635711B2
To a solution of 125 mg (0.28 mmol) of 2,4-dimethyl-6-nitro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide in 5 mL of methanol was added 220 mg (3.36 (mmol) of zinc powder followed by 3 mL of 1 N aqueous HCl. After 3 hours, the mixture was made basic with saturated aqueous sodium bicarbonate solution and extracted with three 10 mL portions of ethyl acetate. The combined organic layers were washed with two 5 mL portions of saturated aqueous sodium bicarbonate solution and three 5 mL portions of brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The oil residue was chromatographed on silica gel eluting first with dichloromethane-hexanes (1:1) and then ethyl acetate-hexanes (5-20% gradient). The material from the column was solidified from ether-hexanes with a few drops of ethanol to afford 100 mg (85%) of 2-amino-4,6-dimethyl-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide. MS: m/z 412.48 (M+1).

reactant | 2,4-dimethyl-6-nitro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 0.28 mmol, 125 mg | CC1=C(C(=CC(=C1)C)[N+](=O)[O-])S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C19H18F3N3O4S
reactant | HCl | 1 N, 3 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | zinc | [Zn] | Zn
product | 2-amino-4,6-dimethyl-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 100 mg, 85% | NC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C19H20F3N3O2S
